US05942515
Preparation of 3-{[2-(benzyloxy)-1-(tetrahydro-2-oxo-3-furyl)ethylidene]amino}pyrazole:
In 2.0 ml of ethanol were dissolved 1.83 g of 2-benzyloxyacetyl-γ-butyrolactone and 0.50 g of 3-aminopyrazole. To the solution, were added 60 μl of a boron trifluoride methanol complex, and the mixture was stirred for 16.5 hours at room temperature. The solvent was distilled off under reduced pressure, and the residue was subjected to column chromatography on silica gel (elution solvent: hexane:ethyl acetate=1:1→1:2) to obtain 1.18 g (yield: 65.5%) of the intended product as a yellow oil.

reactant | 2-benzyloxyacetyl-γ-butyrolactone | 1.83 g | C(C1=CC=CC=C1)OCC(=O)C1C(=O)OCC1 | C13H14O4
reactant | 3-aminopyrazole | 0.50 g | NC1=NNC=C1 | C3H5N3
solvent | ethanol | 2.0 ml | C(C)O | C2H6O
product | 3-{[2-(benzyloxy)-1-(tetrahydro-2-oxo-3-furyl)ethylidene]amino}pyrazole | 1.18 g, yield: 65.5% | C(C1=CC=CC=C1)OCC(C1C(OCC1)=O)=NC1=NNC=C1 | C16H17N3O3
